US07179301B2
Synthesis of 1-(3-methoxy-4-nitrophenyl)pyrrolidin-3-ol (2)
8 g (46 mmol) of 4-fluoro-2-methoxy-1-nitrobenzene 1,80 ml of dioxane and 8.14 g (0.095 mol) of (R)-(+)-3-pyrrolidinol are respectively placed in the reactor. The mixture is refluxed for one hour. The reaction medium is poured into a mixture of water (100 ml)-ice (200 g). A yellow product precipitates. This product is filtered off, washed with water (3×30 ml) and then dried under vacuum at 45° C. 8.38 g (75%) of 1-(3-methoxy-4-nitrophenyl)pyrrolidin-3-ol (2) are thus recovered.

reactant | 4-fluoro-2-methoxy-1-nitrobenzene | 46 mmol, 1,80 ml, 8 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | (R)-(+)-3-pyrrolidinol | 0.095 mol, 8.14 g | N1C[C@@H](CC1)O | C4H9NO
solvent | water | 100 ml | O | H2O
product | 1-(3-methoxy-4-nitrophenyl)pyrrolidin-3-ol | COC=1C=C(C=CC1[N+](=O)[O-])N1CC(CC1)O | C11H14N2O4
